US04297516
3,3-Diethoxy-2-fluoro-1-hexene
A stirred solution of 58.4 g. of 2-butyl-1-chloro-2-ethoxy-1-fluorocyclopropane and 166 g. of anhydrous potassium carbonate in 400 ml. of absolute ethanol is heated at reflux for 18 hours. The solution is cooled and the bulk of the ethanol is removed in vacuo. The residue is partitioned with 500 ml. of water and 750 ml. of ether. The ether phase is washed with three 100 ml. portions of brine, dried over potassium carbonate and concentrated in vacuo to provide 54 g. of a pale yellow oil. A 4.45 g. portion of this oil is distilled through a 6 inch Vigreux column giving 2.5 g. of the desired product as a colorless liquid, b.p. 80°-81° C., 24 mm.

reactant | 2-butyl-1-chloro-2-ethoxy-1-fluorocyclopropane | C(CCC)C1(C(C1)(F)Cl)OCC | C9H16ClFO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | ethanol | C(C)O | C2H6O
product | 3,3-Diethoxy-2-fluoro-1-hexene | C(C)OC(C(=C)F)(CCC)OCC | C10H19FO2
